US04244957
Preparation of 2-[(2,6-dichlorophenyl)imino]-1-(2-propynyloxy)imidazolidine hydrochloride
1.31 g. of sodium hydride (55% strength suspension) are added to a solution of 6.15 g. of 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine in 45 ml. of absolute dimenthylformamide at a temperature of 25°. After 30 minutes, 4.16 g. of propargyl bromide are added dropwise. After 30 minutes, the mixture is poured onto 500 ml. of a saturated solution of sodium chloride and the aqueous phase is extracted with ether. The ether extracts are washed with aqueous hydrochloric acid. The aqueous extracts are then rendered basic with 3 N caustic soda solution and extracted with ether. After evaporating off the solvent, the residue is dissolved in ether, and hydrogen chloride in dioxane is added. The residue is recrystallized from methanol/acetonitrile, whereupon 2-[(2,6-dichlorophenyl)imino]-1-(2-propynyloxy)-imidazolidine hydrochloride, m.p. 198°-199° (from methanol/acetonitrile) is obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)O | C9H9Cl2N3O
reactant | dimenthylformamide | C1(CC(C(CC1)C(C)C)N(C=O)C1CC(CCC1C(C)C)C)C | C21H39NO
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | 2-[(2,6-dichlorophenyl)imino]-1-(2-propynyloxy)imidazolidine hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OCC#C | InChI=1S/C12H11Cl2N3O.ClH/c1-2-8-18-17-7-6-15-12(17)16-11-9(13)4-3-5-10(11)14;/h1,3-5H,6-8H2,(H,15,16);1H
